US07138425B2
e) 2-(3-Amino-6-methoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 15e), from palladium (10 mol %) on carbon and 2-(3-nitro-6-methoxyphenyl)-5-phenylbenzoxazole (450 mg, 1.3 mmol) the subtitle compound was obtained (420 mg, 99%). The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-methoxyphenyl)-5-phenylbenzoxazole | 1.3 mmol, 450 mg | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H14N2O4
catalyst | palladium | [Pd] | Pd
product | 2-(3-Amino-6-methoxyphenyl)-5-phenylbenzoxazole | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H16N2O2
